* Copyright 2022 GlobalFoundries PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     http://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

.SUBCKT gf180mcu_fd_io__cor DVDD DVSS VDD VSS
C0 DVDD DVSS cap_nmos_06v0 m=70.0 l=10e-6 w=25e-6
M1 n7 n8 VDD VDD pfet_06v0 m=1.0 w=15e-6 l=700e-9 nf=1.0 as=6.6e-12 ad=6.6e-12
+ ps=30.88e-6 pd=30.88e-6 nrd=29.333e-3 nrs=29.333e-3 sa=440e-9 sb=440e-9
+ sd=0.0 dtemp=0.0 par=1
M2 n8 n9 VDD VDD pfet_06v0 m=1.0 w=20e-6 l=700e-9 nf=1.0 as=8.8e-12 ad=8.8e-12
+ ps=40.88e-6 pd=40.88e-6 nrd=22e-3 nrs=22e-3 sa=440e-9 sb=440e-9 sd=0.0
+ dtemp=0.0 par=1
M3 n5 n7 VDD VDD pfet_06v0 m=1.0 w=120e-6 l=700e-9 nf=2.0 as=52.8e-12 ad=31.2e-12
+ ps=241.76e-6 pd=121.04e-6 nrd=2.167e-3 nrs=3.667e-3 sa=440e-9 sb=440e-9
+ sd=520e-9 dtemp=0.0 par=1
C4 n9 VSS cap_nmos_06v0 m=8.0 l=10e-6 w=25e-6
R5 n12 n16 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R6 n11 n12 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R7 n20 n11 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R8 n22 n20 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R9 n18 n22 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R10 n21 n9 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R11 n23 n21 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R12 n19 n23 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R13 n14 n19 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R14 n13 n14 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R15 n16 n13 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R16 VDD n18 VDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
M17 n8 n9 VSS VSS nfet_06v0 m=1.0 w=5e-6 l=700e-9 nf=1.0 as=2.2e-12 ad=2.2e-12
+ ps=10.88e-6 pd=10.88e-6 nrd=88e-3 nrs=88e-3 sa=440e-9 sb=440e-9 sd=0.0
+ dtemp=0.0 par=1
M18 VDD n5 VSS VSS nfet_06v0 m=1.0 w=4e-3 l=700e-9 nf=80.0 as=1.058e-9 ad=1.04e-9
+ ps=4.14232e-3 pd=4.0416e-3 nrd=65e-6 nrs=66e-6 sa=440e-9 sb=440e-9 sd=520e-9
+ dtemp=0.0 par=1
M19 n5 n7 VSS VSS nfet_06v0 m=1.0 w=30e-6 l=700e-9 nf=1.0 as=13.2e-12 ad=13.2e-12
+ ps=60.88e-6 pd=60.88e-6 nrd=14.667e-3 nrs=14.667e-3 sa=440e-9 sb=440e-9
+ sd=0.0 dtemp=0.0 par=1
M20 n7 n8 VSS VSS nfet_06v0 m=1.0 w=30e-6 l=700e-9 nf=1.0 as=13.2e-12 ad=13.2e-12
+ ps=60.88e-6 pd=60.88e-6 nrd=14.667e-3 nrs=14.667e-3 sa=440e-9 sb=440e-9
+ sd=0.0 dtemp=0.0 par=1
M21 n27 n28 DVDD DVDD pfet_06v0 m=1.0 w=15e-6 l=700e-9 nf=1.0 as=6.6e-12 ad=6.6e-12
+ ps=30.88e-6 pd=30.88e-6 nrd=29.333e-3 nrs=29.333e-3 sa=440e-9 sb=440e-9
+ sd=0.0 dtemp=0.0 par=1
M22 n28 n29 DVDD DVDD pfet_06v0 m=1.0 w=20e-6 l=700e-9 nf=1.0 as=8.8e-12 ad=8.8e-12
+ ps=40.88e-6 pd=40.88e-6 nrd=22e-3 nrs=22e-3 sa=440e-9 sb=440e-9 sd=0.0
+ dtemp=0.0 par=1
M23 n25 n27 DVDD DVDD pfet_06v0 m=1.0 w=120e-6 l=700e-9 nf=2.0 as=52.8e-12
+ ad=31.2e-12 ps=241.76e-6 pd=121.04e-6 nrd=2.167e-3 nrs=3.667e-3 sa=440e-9
+ sb=440e-9 sd=520e-9 dtemp=0.0 par=1
C24 n29 DVSS cap_nmos_06v0 m=8.0 l=10e-6 w=25e-6
R25 n32 n36 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R26 n31 n32 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R27 n40 n31 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R28 n42 n40 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R29 n38 n42 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R30 n41 n29 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R31 n43 n41 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R32 n39 n43 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R33 n34 n39 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R34 n33 n34 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R35 n36 n33 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
R36 DVDD n38 DVDD ppolyf_u W=800e-9 L=63.855e-6 m=1.0 r=29.999e3 par=1
M37 n28 n29 DVSS DVSS nfet_06v0 m=1.0 w=5e-6 l=700e-9 nf=1.0 as=2.2e-12 ad=2.2e-12
+ ps=10.88e-6 pd=10.88e-6 nrd=88e-3 nrs=88e-3 sa=440e-9 sb=440e-9 sd=0.0
+ dtemp=0.0 par=1
M38 DVDD n25 DVSS DVSS nfet_06v0 m=1.0 w=4e-3 l=700e-9 nf=80.0 as=1.058e-9 ad=1.04e-9
+ ps=4.14232e-3 pd=4.0416e-3 nrd=65e-6 nrs=66e-6 sa=440e-9 sb=440e-9 sd=520e-9
+ dtemp=0.0 par=1
M39 n25 n27 DVSS DVSS nfet_06v0 m=1.0 w=30e-6 l=700e-9 nf=1.0 as=13.2e-12
+ ad=13.2e-12 ps=60.88e-6 pd=60.88e-6 nrd=14.667e-3 nrs=14.667e-3 sa=440e-9
+ sb=440e-9 sd=0.0 dtemp=0.0 par=1
M40 n27 n28 DVSS DVSS nfet_06v0 m=1.0 w=30e-6 l=700e-9 nf=1.0 as=13.2e-12
+ ad=13.2e-12 ps=60.88e-6 pd=60.88e-6 nrd=14.667e-3 nrs=14.667e-3 sa=440e-9
+ sb=440e-9 sd=0.0 dtemp=0.0 par=1
.ENDS

